US08349849B2
(4S)-4-((2S)-5-Bromo-6-hydroxy-1,2,3,4-tetrahydronaphthalen-2-yl)-4-methyloxazolidin-2-one
To a mixture of 4-(6-hydroxy-1,2,3,4-tetrahydronaphthalen-2-yl)-4-methyloxazolidin-2-one (100 mg, 0.0004 mol) (pure isomer 2) in N,N-Dimethylformamide (0.5 mL, 0.006 mol) was added N-Bromosuccinimide (72.0 mg, 0.000404 mol) in N,N-Dimethylformamide (0.5 mL, 0.006 mol) and was stirred at for 6 hrs. Water was added, and the mixture was extracted with dichloromethane. The solvent was removed and residue was purified with Isco (12 g silica gel, 0-40% MeOH:DCM) to give a white precipitate (125 mg, 95% yield). 1H NMR showed a single isomer. The solid (10.1 mg) was dissolved in MeOH (3 mL) and the solvent allowed to evaporate slowly to give white needles, which was washed with MeOH and collected (5.0 mg). LCMS 1.23 min 328.21 ([M+2], 100%). X-ray shows (S,S) configuration, see FIG. 2.

reactant | 4-(6-hydroxy-1,2,3,4-tetrahydronaphthalen-2-yl)-4-methyloxazolidin-2-one | 0.0004 mol, 100 mg | OC=1C=C2CCC(CC2=CC1)C1(NC(OC1)=O)C | C14H17NO3
reactant | N,N-Dimethylformamide | 0.006 mol, 0.5 mL | CN(C=O)C | C3H7NO
reactant | N-Bromosuccinimide | 0.000404 mol, 72.0 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | N,N-Dimethylformamide | 0.006 mol, 0.5 mL | CN(C=O)C | C3H7NO
solvent | Water | O | H2O
product | (4S)-4-((2S)-5-Bromo-6-hydroxy-1,2,3,4-tetrahydronaphthalen-2-yl)-4-methyloxazolidin-2-one | 125 mg, 95% yield | BrC1=C2CC[C@@H](CC2=CC=C1O)[C@@]1(NC(OC1)=O)C | C14H16BrNO3
